US05707544
0.2 g of N,N'-dicyclohexyldicarbodiimide (DCC) was added at room temperature while stirring to a solution of 0.5 g of 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoic acid, 0.25 g of 6-[4-(4-nitrophenylazo)phenoxy]hexanol and 0.04 g of 4-dimethylaminopyridine (DMAP) in 25 ml of dichloromethane. The reaction mixture was stirred at room temperature overnight, poured into 100 ml of water and then extracted three times with 50 ml of dichloromethane each time. The organic phases were combined, washed twice with 100 ml of water each time, dried over magnesium sulphate, filtered and the filtrate was concentrated. Chromatographic purification of the residue on silica gel with hexane/ethyl acetate (vol 1:1) and two-fold recrystallization from acetone of the fractions which were pure according to thin-layer chromatography gave 0.4 g of 6-[4-(4-nitrophenylazo)phenoxy]hexyl 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoate; m.p. (C-N) 72° C., cl.p. (N-I) 127° C.

reactant | 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoic acid | 0.5 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)OC(=O)C1=C(C(=O)O)C=C(C=C1)C(=O)OC1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C39H42O12
reactant | 6-[4-(4-nitrophenylazo)phenoxy]hexanol | 0.25 g | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(OCCCCCCO)C=C1 | C18H21N3O4
reactant | water | 100 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 6-[4-(4-nitrophenylazo)phenoxy]hexyl 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoate | 0.4 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)OC(=O)C1=C(C(=O)OCCCCCCOC2=CC=C(C=C2)N=NC2=CC=C(C=C2)[N+](=O)[O-])C=C(C=C1)C(=O)OC1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C57H61N3O15
